US07745484B2
(S)-methyl 2-(tert-butoxycarbonyl)-3-(2-(triisopropylsilyl)thiazol-5-yl)propanoate
The title compound was synthesized in a manner analogous to that described Example 475, using (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate and 5-bromo-2-(triisopropylsilyl)thiazole (prepared according to Stangeland, Eric L.; Sammakia, Tarek, Use of Thiazoles in the Halogen Dance Reaction: Application to the Total Synthesis of WS75624 B, Journal of Organic Chemistry (2004), 69(7), 2381-2385.). MS m/z: 443.3 (100%, M+1).

reactant | (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate | C(C)(C)(C)OC(=O)[C@@H](C(=O)OC)CI | C9H15IO4
reactant | 5-bromo-2-(triisopropylsilyl)thiazole | BrC1=CN=C(S1)[Si](C(C)C)(C(C)C)C(C)C | C12H22BrNSSi
product | (S)-methyl 2-(tert-butoxycarbonyl)-3-(2-(triisopropylsilyl)thiazol-5-yl)propanoate | C(C)(C)(C)OC(=O)[C@H](C(=O)OC)CC1=CN=C(S1)[Si](C(C)C)(C(C)C)C(C)C | C21H37NO4SSi
